US07858654B2
A mixture of 2-bromo-5-methyl-pyridine (10.27 g, 59.68 mmol) and palladium tetrakis(triphenylphosphine) (1.88 g, 1.65 mmol) in 300 mL DME was stirred at 60° C. under nitrogen for 30 minutes. To this mixture was added 3-bromo-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (18.5 g, 54.25 mmol), followed by K3PO4 23.03 g, 108.5 mmol) in 40 mL water. The mixture was refluxed for eight hours, then cooled to room temperature and partitioned between water and EtOAc. The combined organic layers were washed with water, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified via flash chromatography (5:1 EtOAc/hexanes) to give 8.5 g of 3-bromo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester, MS (M+H)=306.

reactant | 2-bromo-5-methyl-pyridine | 59.68 mmol, 10.27 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 3-bromo-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 54.25 mmol, 18.5 g | COC(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Br)=O | C14H18BBrO4
reactant | K3PO4 | 108.5 mmol, 23.03 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | 300 mL | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
catalyst | palladium tetrakis(triphenylphosphine) | 1.65 mmol, 1.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-bromo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 8.5 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)Br)=O | C14H12BrNO2
